.subckt relay N P C1 C2 S1_1 S1_2 S2_1 S2_2
S1 S1_1 C1 S_On1 0 SwON
S2 S1_2 C1 S_On2 0 SwON
S3 S2_1 C2 S_On1 0 SwON
S4 S2_2 C2 S_On2 0 SwON
L1 P N {Ls} Rser={Rs}
B1 N001 0 V=if(abs(I(L1))>curr,1,0)
A1 N001 0 0 0 0 0 N002 0 BUF Td=delay
A2 0 N002 0 N001 0 S_On2 0 0 AND
A3 0 N002 0 N001 0 0 S_On1 0 OR
.param Rs=167 Ls=150m Curr=29.9m delay=6m
.param Ron=1m Roff=1T Vh=-0.4
.model SwON SW(Ron={Roff} Roff={Ron} Vt=0.5 Vh={Vh})
.ends relay
